US04064125
B. N-[[2-[3-(Dimethylamino)propoxy]phenyl]methyl]benzeneethanamine
A stirred solution of 36.0 g of N-[[2-[3-(dimethylamino)propoxy]phenyl]methylene]benzeneethanamine in 200 ml of methanol is treated portionwise with 13.0 g of sodium borohydride. The temperature is maintained at 35° C using a cold water bath. After 3 hours, the solvent is evaporated and the semi-solid residue is treated with 300 ml of water. The product is extracted twice with 100 ml portions of ether. The solvent fractions are combined, treated with water, dried and concentrated to give 33.8 g of an oil product. Distillation yields 19.9 g of the title compound, boiling point 165°-170° C at 0.15 mm of Hg.

reactant | N-[[2-[3-(dimethylamino)propoxy]phenyl]methylene]benzeneethanamine | 36.0 g | CN(CCCOC1=C(C=CC=C1)C=NCCC1=CC=CC=C1)C | C20H26N2O
reactant | sodium borohydride | 13.0 g | [BH4-].[Na+]
solvent | methanol | 200 ml | CO | CH4O
product | N-[[2-[3-(Dimethylamino)propoxy]phenyl]methyl]benzeneethanamine | 33.8 g | CN(CCCOC1=C(C=CC=C1)CNCCC1=CC=CC=C1)C | C20H28N2O
